US07504411B2
To a solution of 3-(4-cyclohexylaminophenyl)-piperidine-1-carboxylic acid tert-butyl ester (6.74 g, 18.8 mmol) in methanol (50 mL) was added 4N hydrochloric acid in ethyl acetate (40 mL) at room temperature. After stirring for 1 h, the resulting suspension was concentrated in vacuo. The residue was washed with ethyl acetate to furnish 3-(4-cyclohexylaminophenyl)-piperidine dihydrochloride (5.84 g, 17.6 mmol, 94%) as white crystals.

reactant | 3-(4-cyclohexylaminophenyl)-piperidine-1-carboxylic acid tert-butyl ester | 18.8 mmol, 6.74 g | C(C)(C)(C)OC(=O)N1CC(CCC1)C1=CC=C(C=C1)NC1CCCCC1 | C22H34N2O2
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | methanol | 50 mL | CO | CH4O
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | 3-(4-cyclohexylaminophenyl)-piperidine dihydrochloride | 17.6 mmol, 5.84 g, 94% | Cl.Cl.C1(CCCCC1)NC1=CC=C(C=C1)C1CNCCC1 | InChI=1S/C17H26N2.2ClH/c1-2-6-16(7-3-1)19-17-10-8-14(9-11-17)15-5-4-12-18-13-15;;/h8-11,15-16,18-19H,1-7,12-13H2;2*1H
